US08790691B2
A toluene (10 mL) solution of crude 1-(tert-butyldimethylsilyloxy)-3-(dimethylamino)propan-2-ol (1.0 g, 4.29 mmol, 1.0 equiv) was carefully added dropwise to a toluene suspension (5 mL) of NaH (60%, 0.17 g, 4.29 mmol, 1.0 equiv) at 0° C. under argon and the resultant was stirred for 15 minutes. A toluene solution (5 mL) of linoleyl methanesulfonate (1.47 g, 4.29 mmol, 1.0 equiv) was added dropwise to the stirring mixture and the reaction was then stirred for 18 hours at 90° C. The mixture was then cooled to room temperature and quenched by the slow addition of ethanol (10 mL). The mixture was then concentrated and the residue was taken up with deionized water (15 mL) and extracted three times with EtOAc (20 mL). The combined organic extracts were washed with deionized water (15 mL), dried (MgSO4), filtered, and concentrated. Chromatographic purification of the residue (0-5% MeOH in chloroform) yielded 109 mg (53% yield) of 3-(tert-butyldimethylsilyloxy)-N,N-dimethyl-2-((9Z,12Z)-octadeca-9,12-dienyloxy)propan-1-amine, a thick clear oil.

reactant | 1-(tert-butyldimethylsilyloxy)-3-(dimethylamino)propan-2-ol | 4.29 mmol, 1.0 g, 1.0 equiv | [Si](C)(C)(C(C)(C)C)OCC(CN(C)C)O | C11H27NO2Si
reactant | NaH | 4.29 mmol, 0.17 g, 1.0 equiv | [H-].[Na+]
reactant | linoleyl methanesulfonate | 4.29 mmol, 1.47 g, 1.0 equiv | CS(=O)(=O)OCCCCCCCC\C=C/C\C=C/CCCCC | C19H36O3S
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(tert-butyldimethylsilyloxy)-N,N-dimethyl-2-((9Z,12Z)-octadeca-9,12-dienyloxy)propan-1-amine | 109 mg, 53% yield | [Si](C)(C)(C(C)(C)C)OCC(CN(C)C)OCCCCCCCC\C=C/C\C=C/CCCCC | C29H59NO2Si
